US07132539B2
Preparation of {1-[2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl carbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester (46):
2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide hydrochloride, 41, (0.3 g, 0.6 mmol) and tert-butyloxycarbonyl-α-aminoisobutyric acid (AIB) (0.12 g, 0.6 mmol) 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide (0.22 g, 1.1 mmol) and 1-hydroxybenzotriazole (0.1 g, 0.7 mmol) are dissolved in anhydrous DMF (2.5 mL). The reaction mixture is cooled to 0° C., then N-methylmorpholine (0.2 mL, 1.7 mmol) is added. The reaction mixture is placed in refrigerator overnight. EtOAc (25 mL) and water (75 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×30 mL). All organic layers are combined and washed with water (2×50 mL), and dried over Na2SO4. Solvent is removed in vacuo and the product is purified over silica (EtOAc/Hexane, 2/1) to afford 0.7 g of the desired compound. 1H NMR (CDCl3, δ): 7.80–7.58 (m, 4H), 7.42–7.22 (m, 3H), 7.20–7.00 (m, 2H), 6.98–6.50 (m, 2H), 5.40–4.98 (m, 1.5H), 4.70–3.90 (m, 1H), 3.75–3.02 (m, 3.5H), 3.00–2.56 (m, 7H), 2.42–2.35 (m, 1H), 2.18–1.95 (m, 2.5H), 1.50–1.12 (m, 18H), 0.095–0.75 (m, 3H); 13C NMR, δ 174.4, 172.1, 171.9, 170.3, 169.6, 163.7, 162.0, 154.6, 137.3, 133.7, 132.3, 131.4, 130.8, 128.1, 127.8, 127.6, 126.2, 125.6, 115.7, 115.4, 115.2, 80.0, 70.2, 56.7, 55.3, 50.9, 50.0, 49.9, 41.8, 39.5, 38.5, 37.9, 32.7, 32.4, 28.5, 28.3, 26.1, 25.5, 25.3, 23.1, 22.1, 10.6, 10.1.

reactant | 2-{4-[2-Amino-3-(4-fluorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide hydrochloride | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)F
reactant | tert-butyloxycarbonyl-α-aminoisobutyric acid | 0.6 mmol, 0.12 g | C(C)(C)(C)OC(=O)CC(C(=O)O)(C)N | C9H17NO4
reactant | 1-hydroxybenzotriazole | 0.7 mmol, 0.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 1.7 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | {1-[2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)-piperazin-1-yl]-1-(4-fluorobenzyl)-2-oxo-ethyl carbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | 0.7 g | C(C)(C)(C)OC(NC(C)(C)C(NC(C(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CC)CC1=CC=C(C=C1)F)=O)=O | C38H50FN5O5
